* Auto-generated simulation netlist for case: ccp_gec_level1_fixed_match
.param C1=1.01529948106e-09
.param C2=1.22077229273e-09
.param Csh=1.35279003076e-10
.param L1=2.77283328862e-07
.param Vsrc_amp=577.290188003
.param ne=3.27754408257e+14
.param nu_m=72405090.1105

* Sources
Vsrc src 0 SIN(0 577.290188003 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: plasma_state_rlc
.subckt load_model p n
Rbulk p nb 24.4548480067
Lbulk nb ns 3.37750398064e-07
Csh ns n 1.35279003076e-10
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
